US09227978B2
1-tert-Butyl 3-methyl 4-(1-benzhydrylazetidin-3-yl)piperazine-1,3-dicarboxylate
A mixture of 1-benzhydrylazetidin-3-yl methanesulfonate (2.4 g, 7.56 mmol), tert-butyl methyl piperazine-1,3-dicarboxylate (1.85 g, 7.56 mmol), K2CO3 (1.6 g, 11.34 mmol) in CH3CN (40 mL) was stirred at reflux for 16 h. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (10% petroleum ether/ethyl acetate) to afford the desired product (1.85 g, 51% yield).

reactant | 1-benzhydrylazetidin-3-yl methanesulfonate | 7.56 mmol, 2.4 g | CS(=O)(=O)OC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H19NO3S
reactant | tert-butyl methyl piperazine-1,3-dicarboxylate | 7.56 mmol, 1.85 g | N1(CC(NCC1)C(=O)OC)C(=O)OC(C)(C)C | C11H20N2O4
reactant | K2CO3 | 11.34 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 40 mL | CC#N | C2H3N
product | 1-tert-Butyl 3-methyl 4-(1-benzhydrylazetidin-3-yl)piperazine-1,3-dicarboxylate | 1.85 g, 51% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C27H35N3O4
